US04801705
(B) 1-(3,4-Dimethoxyphenyl)-2-imidazolidinone
To a solution of 82.6 g (0.32 mol) of 1-chloro-2-[[[(3,4-dimethoxyphenyl)amino]carbonyl]amino]ethane in 800 ml of ethanol was added dropwise a solution of 21.5 g (0.383 mol) of potassium hydroxide in 400 ml of ethanol. The mixture was stirred for two days at room temperature and the precipitate filtered off by suction. The crude product was recrystallized from 1.5 l of ethyl acetate containing 10% methanol; yield, 52.5 g; melting point 168° C.

reactant | 1-chloro-2-[[[(3,4-dimethoxyphenyl)amino]carbonyl]amino]ethane | 0.32 mol, 82.6 g | ClCCNC(=O)NC1=CC(=C(C=C1)OC)OC | C11H15ClN2O3
reactant | potassium hydroxide | 0.383 mol, 21.5 g | [OH-].[K+]
solvent | ethanol | 800 ml | C(C)O | C2H6O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 1-(3,4-Dimethoxyphenyl)-2-imidazolidinone | COC=1C=C(C=CC1OC)N1C(NCC1)=O | C11H14N2O3
